US06127386
187b. 3-(1-BOC-2-(S)-pyrrolidinylmethoxy)-6-chloro-5-methylpyridine
To a solution of 5-acetoxy-2-chloro-3-methylpyridine (1.80 g, 8.9 mmol) in MeOH (5 mL) was added potassium carbonate (1.4 g, 10.1 mmol). The reaction mixture was allowed to stir at room tenperature for 2.5 h. Solvent was evaporated. The residue was then dissolved in DMF, and 1-BOC-2-(S)-methyltoluenesulfonate-pyrrolidine (2.0 g, 5.63 mmol) from a above was added. The reaction mixture was stirred at 60° C. for 16 h. Solvent was evaporated. The residue was chromatographed (silica gel; hexane/EtOAc, 10:1 to 3:1) to afford an oil (850 mg, 30%): 1H NMR δ 1.47 (s, 9H), 1.80-2.00 (m, 2H), 2.00-2.08 (m, 2H), 2.34 (s, 3H), 3.24-3.44 (m, 2H), 3.92 (m, 1H), 4.02-4.20 (m, 2H), 7.16 (m, 1H), 7.92 (d, 1H, J=2.5 Hz); MS (CI/NH3) m/z 227 (M+H)+.

reactant | 5-acetoxy-2-chloro-3-methylpyridine | 8.9 mmol, 1.80 g | C(C)(=O)OC=1C=C(C(=NC1)Cl)C | C8H8ClNO2
reactant | potassium carbonate | 10.1 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-BOC-2-(S)-methyltoluenesulfonate pyrrolidine | 5.63 mmol, 2.0 g | C(=O)(OC(C)(C)C)C1([C@](C=CC=C1)(S(=O)(=O)[O-])C)C.N1CCCC1
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(1-BOC-2-(S)-pyrrolidinylmethoxy)-6-chloro-5-methylpyridine | 850 mg, 30% | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COC=1C=NC(=C(C1)C)Cl | C16H23ClN2O3
